US05055466
A. (1-Naphthalenylmethyl)propanedioic acid diethyl ester
To a suspension of sodium hydride (8 g of 60% dispersion in mineral oil, 200 mmols) in tetrahydrofuran (200 mL) was added diethyl malonate (30.5 mL, 200 mmols) dropwise over 15 minutes; gas evolution was observed. When the addition was complete, the mixture was stirred for 10 minutes at 25° C. A solution of 1-chloromethyl naphthalene (35.5 g, 200 mmols) in tetrahydrofuran (20 mL) was added dropwise over 15 minutes, after which the mixture was heated at reflux under argon for 18 hours. Excess 1N hydrochloric acid was then added and the mixture was extracted with ether. The extract was washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was transferred to a flask fitted with a vacuum distillation head. Unreacted diethyl malonate (bp 45°-55° C./0.2 torr) and 1-chloromethyl naphthalene (bp 120°-130° C.) were distilled off and the residue was recooled to 25° C. The distillation residue (43.5 g) was crystallized from petroleum ether at -30° C. to give the title A compound as a low melting (mp about 30° C.) solid (27.3 g, 46%).

reactant | sodium hydride | 200 mmols, 8 g | [H-].[Na+]
reactant | diethyl malonate | 200 mmols, 30.5 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-chloromethyl naphthalene | 200 mmols, 35.5 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (1-Naphthalenylmethyl)propanedioic acid diethyl ester | 27.3 g, 46% | C(C)OC(C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12)=O | C18H20O4
